US08372981B2
2-Methoxyethyl 7-methoxy-4-(4-(((1,3-thiazol-2-ylamino)carbonyl)amino)phenoxy)-6-quinolinecarboxylate
After dissolving 7-methoxy-4-(4-(4-(((1,3-thiazol-2-ylamino)carbonyl)amino)phenoxy)-6-quinolinecarboxylic acid (87.3 mg, 0.20 mmol) in dimethylformamide (1 ml), there were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (58 mg, 0.30 mmol), 1-hydroxy-1H-benzotriazole monohydrate (41 mg, 0.30 mmol), triethylamine (0.084 ml, 0.60 mmol) and 2-methoxyethylamine (0.052 ml, 0.60 mmol) while stirring on ice, and the mixture was stirred at room temperature for 5 hours. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and dried over anhydrous magnesium sulfate. After distilling off the solvent, ethyl acetate and then hexane was added to precipitate crystals, which were filtered out and dried under reduced pressure to obtain the title compound (24.4 mg, 0.049 mmol, 24.7%) as white crystals.

reactant | 4-(4-(((1,3-thiazol-2-ylamino)carbonyl)amino)phenoxy)-6-quinolinecarboxylic acid | 0.20 mmol, 87.3 mg | S1C(=NC=C1)NC(=O)NC1=CC=C(OC2=CC=NC3=CC=C(C=C23)C(=O)O)C=C1 | C20H14N4O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.30 mmol, 58 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 0.30 mmol, 41 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 0.60 mmol, 0.084 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methoxyethylamine | 0.60 mmol, 0.052 ml | COCCN | C3H9NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxyethyl 7-methoxy-4-(4-(((1,3-thiazol-2-ylamino)carbonyl)amino)phenoxy)-6-quinolinecarboxylate | 0.049 mmol, 24.4 mg, 24.7% | COC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC=1SC=CN1)C(=O)OCCOC | C24H22N4O6S
